US04808722
A suspension of 2.6 grams (0.012 mole) of 4-nitro-2-(2-pyridinyl)pyridine-N oxide and 0.42 gram of 10% palladium on charcoal in 10 ml of water and 200 ml of ethanol was hydrogenated using a Parr hydrogenator. Upon completion of hydrogenation the reaction mixture was purged with nitrogen gas for one hour, then concentrated under reduced pressure to a residual solid. The solid was triturated with 200 ml of water. The mixture was filtered and the filter cake washed with water. The combined filtrate and wash were concentrated under reduced pressure to a residue. The residue was taken up in 30 ml of ethanol and concentrated under reduced pressure. This procedure was repeated three additional times to remove residual water. The residue was dried under reduced pressure at 60° C. to yield 1.9 grams of 4-amino-2-(2-pyridinyl)pyridine-N oxide as a solid. The nmr spectrum was consistent with the proposed structure.

reactant | 4-nitro-2-(2-pyridinyl)pyridine-N oxide | 0.012 mole, 2.6 grams | [N+](=O)([O-])C1=CC(=[N+](C=C1)[O-])C1=NC=CC=C1 | C10H7N3O3
catalyst | palladium on charcoal | 0.42 gram | [Pd] | Pd
solvent | water | 10 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-amino-2-(2-pyridinyl)pyridine-N oxide | 1.9 grams | NC1=CC(=[N+](C=C1)[O-])C1=NC=CC=C1 | C10H9N3O
